US06310056B1
To a solution of 183.0 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate in 15 ml of dichloromethane 15 ml was added 596.7 mg of manganese dioxide, and the mixture was stirred at room temperature for 38 hours. The catalyst was removed by filtration on Celite, and the filtrate was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (ethyl acetate:methanol=9:1) to give 127 mg of 127 mg of 4-nitrobenzyl (1S,5R,6S)-2-(7-formylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 183.0 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C23H22N4O7S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 596.7 mg | [O-2].[O-2].[Mn+4]
product | 4-nitrobenzyl (1S,5R,6S)-2-(7-formylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 127 mg | C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C23H20N4O7S
